US07396846B2
N-(3-(4-Fluorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.5]dec-3-en-4-ylmethyl)-N-ethylamine (3.26 g, 9.6 mmol) was dissolved in 50 ml THF, cooled to 0° C. and triethylamine (2.67 ml, 18 mmol) and di-tert-butyldicarbonate (2.4 g, 11 mmol) in 10 ml THF were added. The mixture was stirred for 3 hours at 0° C. and for 3 days at room temperature. The solvent was evaporated and the residue purified by chromatography on silica (eluent: ethyl acetate/isohexane 1:1) to yield 3.61 g (86%) N-tert-butoxycarbonyl-N-(3-(4-fluorophenyl)-2,2-dioxo-2-thia-1-azaspiro[4.5]dec-3-en-4-ylmethyl)-N-ethylamine.

reactant | N-(3-(4-Fluorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.5]dec-3-en-4-ylmethyl)-N-ethylamine | 9.6 mmol, 3.26 g | FC1=CC=C(C=C1)C=1S(NC2(C1CNCC)CCCCC2)(=O)=O | C17H23FN2O2S
reactant | triethylamine | 18 mmol, 2.67 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 11 mmol, 2.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-N-(3-(4-fluorophenyl)-2,2-dioxo-2-thia-1-azaspiro[4.5]dec-3-en-4-ylmethyl)-N-ethylamine | 3.61 g, 86% | C(C)(C)(C)OC(=O)N(CC)CC1=C(S(NC12CCCCC2)(=O)=O)C2=CC=C(C=C2)F | C22H31FN2O4S
